US04377695
8-(2-Oxo-benzthiazolin-3-yl)-caprylic acid
The product is produced as described in example 22 from 20 g. of 8-(2-oxo-benzthiazolin-3-yl)-caprylic acid methyl ester and 2.6 g. of NaOH.

reactant | 8-(2-oxo-benzthiazolin-3-yl)-caprylic acid methyl ester | COC(CCCCCCCN1C(SC2=C1C=CC=C2)=O)=O | C16H21NO3S
reactant | NaOH | [OH-].[Na+]
product | 8-(2-Oxo-benzthiazolin-3-yl)-caprylic acid | O=C1SC2=C(N1CCCCCCCC(=O)O)C=CC=C2 | C15H19NO3S
